US07741327B2
(S)-2,2-Dimethyl-4-(2-oxo-ethyl)-oxazolidine-3-carboxylic acid t-butyl ester (2.29 g, 9.44 mmol) was dissolved in dry tetrahydrofuran (25 mL). Then at −78° C., allyl magnesium bromide (1.0M in diethyl ether, 9.9 mL) was added. The mixture was warmed to −15° C. and stirred for 2 h. The mixture was extracted with diethyl ether and aqueous citric acid solution. The organic layer was washed with saturated sodium chloride solution, dried over sodium sulfate and solvents were evaporated to afford (S)-4-(2-hydroxy-pent-4-enyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (2.54 g) as an oil.

reactant | (S)-2,2-Dimethyl-4-(2-oxo-ethyl)-oxazolidine-3-carboxylic acid t-butyl ester | 9.44 mmol, 2.29 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC=O)(C)C | C12H21NO4
reactant | allyl magnesium bromide | 1.0M, 9.9 mL | C(C=C)[Mg]Br
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | (S)-4-(2-hydroxy-pent-4-enyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 2.54 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC(CC=C)O)(C)C | C15H27NO4
